### PR TITLE
[Merged by Bors] - feat(Topology.ProperMap): basic theory of proper maps

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Basic.lean [hunk 1]
```diff
@@ -1356,6 +1356,26 @@ theorem mem_closure_iff_nhds_basis {a : α} {p : ι → Prop} {s : ι → Set α
     simp only [Set.Nonempty, mem_inter_iff, exists_prop, and_comm]
 #align mem_closure_iff_nhds_basis mem_closure_iff_nhds_basis
 
+theorem clusterPt_iff_forall_mem_closure [TopologicalSpace X] {F : Filter X} {x : X} :
```
Comment (ocfnash) [inline Mathlib/Topology/Basic.lean:1359]: For consistency above and below:
```suggestion
theorem clusterPt_iff_forall_mem_closure {F : Filter α} {x : α} :
```
and similarly with the other three lemmas you're introducing here

File: Mathlib/Topology/ContinuousOn.lean [hunk 2]
```diff
@@ -1303,3 +1303,22 @@ theorem continuousWithinAt_prod_iff {f : α → β × γ} {s : Set α} {x : α}
       ContinuousWithinAt (Prod.fst ∘ f) s x ∧ ContinuousWithinAt (Prod.snd ∘ f) s x :=
   ⟨fun h => ⟨h.fst, h.snd⟩, fun ⟨h1, h2⟩ => h1.prod h2⟩
 #align continuous_within_at_prod_iff continuousWithinAt_prod_iff
+
+theorem IsClosedMap.image_closure_eq_of_continuous
```
Comment (ocfnash) [inline Mathlib/Topology/ContinuousOn.lean:1307]: For discoverability, how about adding a comment above `image_closure_subset_closure_image` saying "See also `IsClosedMap.image_closure_eq_of_continuous`."

File: Mathlib/Topology/Maps.lean [hunk 3]
```diff
@@ -538,6 +538,10 @@ theorem isClosedMap_iff_closure_image [TopologicalSpace α] [TopologicalSpace β
         _ = f '' c := by rw [hc.closure_eq]⟩
 #align is_closed_map_iff_closure_image isClosedMap_iff_closure_image
 
+/-- A map `f : X → Y` is closed if and only if for all sets `s`, any cluster point of `f '' s` is
+the image by `f` of some cluster point of `s`.
+If you require this for all filters instead of just principal filters, and also that `f` is
+continuous, you get the notion of **proper map**. See `isProperMap_iff_clusterPt`. -/
```
Comment (ocfnash) [inline Mathlib/Topology/Maps.lean:544]: For the first time in my life, I think I now understand what a proper map is.

File: Mathlib/Topology/StoneCech.lean [hunk 4]
```diff
@@ -101,6 +101,12 @@ instance : TotallyDisconnectedSpace (Ultrafilter α) := by
   have hZ : IsClopen Z := ⟨ultrafilter_isOpen_basic s, ultrafilter_isClosed_basic s⟩
   exact hB ⟨Z, hZ, hs⟩
 
+theorem Ultrafilter.tendsto_pure_self (b : Ultrafilter α) : Tendsto pure b (𝓝 b) := by
```
Comment (ocfnash) [inline Mathlib/Topology/StoneCech.lean:104]:
```suggestion
@[simp] theorem Ultrafilter.tendsto_pure_self (b : Ultrafilter α) : Tendsto pure b (𝓝 b) := by
```

File: Mathlib/Topology/ProperMap.lean [hunk 5]
```diff
@@ -0,0 +1,359 @@
...
+import Mathlib.Topology.Homeomorph
+import Mathlib.Topology.StoneCech
+import Mathlib.Topology.Filter
+import Mathlib.Order.Filter.Cofinite
+
+/-!
+# Proper maps between topological spaces
+
+This file develops the basic theory of proper maps between topological spaces. A map `f : X → Y`
+between two topological spaces is said to be **proper** if it is continuous and satisfies one of
```
Comment (ocfnash) [inline Mathlib/Topology/ProperMap.lean:16]: total nitpick (I read "one of" as "strictly one of")
```suggestion
between two topological spaces is said to be **proper** if it is continuous and satisfies
```

File: Mathlib/Topology/ProperMap.lean [hunk 6]
```diff
@@ -0,0 +1,359 @@
...
+the following equivalent conditions:
+1. `f` is closed and has compact fibers.
+2. `f` is **universally closed**, in the sense that for any topological space `Z`, the map
+  `Prod.map f id : X × Z → Y × Z` is closed.
+3. For any `ℱ : Filter X`, all cluster points of `map f ℱ` are images by `f` of some cluster point
+  of `ℱ`.
+
+We take 3. as the definition in `IsProperMap`, and we show the equivalence with 1., 2., and some
```
Comment (ocfnash) [inline Mathlib/Topology/ProperMap.lean:24]:
```suggestion
We take 3 as the definition in `IsProperMap`, and we show the equivalence with 1, 2, and some
```

File: Mathlib/Topology/ProperMap.lean [hunk 7]
```diff
@@ -0,0 +1,359 @@
...
+
+In algebraic geometry, it is common to also ask that proper maps are *separated*, in the sense of
+[Stacks: definition OCY1](https://stacks.math.columbia.edu/tag/0CY1). We don't follow this
+convention because it is unclear wether it would give the right notion in all cases, and in
+particular for the theory of proper group actions. That means that our terminology does **NOT**
+align with that of [Stacks: Characterizing proper maps](https://stacks.math.columbia.edu/tag/005M),
+instead our definition of `IsProperMap` coincides with what they call "Bourbaki-proper".
+
+Regarding the proofs, we don't really follow Bourbaki and go for more filter-heavy proofs,
+as usual. In particular, their arguments really heavily on restriction of closed maps (see
```
Comment (ocfnash) [inline Mathlib/Topology/ProperMap.lean:50]:
```suggestion
as usual. In particular, their arguments rely heavily on restriction of closed maps (see
```

File: Mathlib/Topology/ProperMap.lean [hunk 8]
```diff
@@ -0,0 +1,359 @@
...
+
+/-- Definition of proper maps. See also `isClosedMap_iff_clusterPt` for a related criterion
+for closed maps. -/
+add_decl_doc isProperMap_iff_clusterPt
+
+/-- By definition, a proper map is continuous. -/
+lemma IsProperMap.continuous (h : IsProperMap f) : Continuous f := h.toContinuous
+
+/-- An homeomorphism is proper. -/
+lemma Homeomorph.isProperMap (e : X ≃ₜ Y) : IsProperMap e := by
```
Comment (ocfnash) [inline Mathlib/Topology/ProperMap.lean:96]:
```suggestion
@[simp] lemma Homeomorph.isProperMap (e : X ≃ₜ Y) : IsProperMap e := by
```

File: Mathlib/Topology/ProperMap.lean [hunk 9]
```diff
@@ -0,0 +1,359 @@
...
+  rw [isProperMap_iff_clusterPt]
+  refine ⟨e.continuous, fun ℱ y ↦ ?_⟩
+  simp_rw [MapClusterPt, ClusterPt, ← Filter.push_pull', map_neBot_iff, e.comap_nhds_eq,
+    ← e.coe_toEquiv, ← e.eq_symm_apply, exists_eq_left]
+  exact id
+
+/-- The identity is proper. -/
+lemma isProperMap_id : IsProperMap (id : X → X) := (Homeomorph.refl X).isProperMap
```
Comment (ocfnash) [inline Mathlib/Topology/ProperMap.lean:104]:
```suggestion
@[simp] lemma isProperMap_id : IsProperMap (id : X → X) := (Homeomorph.refl X).isProperMap
```

**Review by ocfnash — APPROVED** [review]
This is great, thanks!

bors d+

File: Mathlib/Topology/Maps.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Topology/Maps.lean:544]: Happy to see that I'm not the only one to see this as very satisfying :smiley:

File: Mathlib/Topology/ContinuousOn.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/ContinuousOn.lean]: Done. Actually your comment made me realize that I could use `image_closure_subset_closure_image` instead of `ContinuousOn.image_closure`, so I moved a few things around and changed order of some equalities.
